US04950672
Preparation of 8α-benzoylamino-6-n-propylergoline
1.4 ml benzoylchloride in 5 ml CH2Cl2 are added drop-wise with stirring at 5°-10° C. to a suspension of 3.0 g 8α-amino-6-n-propylergoline in 100 ml CH2Cl2 and 2.0 ml triethylamine. The obtained reaction mixture is stirred for 15 to 20 hours at 20° C. and then washed thoroughly 2× with 25 ml 2N NaOH and H2O. The organic phase is dried over MgSO4, filtered and evaporated. The residue (pale brown foam) is dissolved in ethanol, and crystallised as the hydrobromide by addition of equivalent amounts of HBr in acetic acid. M.P. on recrystallisation from C2H5OH/H2O (80:2)=290° with decomposition.

reactant | benzoylchloride | 1.4 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 8α-amino-6-n-propylergoline | 3.0 g | N[C@@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)CCC | C17H23N3
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
product | 8α-benzoylamino-6-n-propylergoline | C(C1=CC=CC=C1)(=O)N[C@@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)CCC | C24H27N3O
